US04230703
Methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate (2.0 g) was dissolved in chloroform (50 ml), and the solution was refluxed for 2 hours with the addition of N-chlorosuccinimide (1.4 g). The reaction mixture was treated in the same manner as described in Example 8 to obtain 5,6-dihydro-4-chloro-5-methyl-11-oxodibenz[b,e]azepine-2-acetic acid (1.2 g) having a melting point of 168.0°-170° C. (prismatic crystals).

reactant | Methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate | 2.0 g | CN1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)OC | C18H17NO3
reactant | N-chlorosuccinimide | 1.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,6-dihydro-4-chloro-5-methyl-11-oxodibenz[b,e]azepine-2-acetic acid | 1.2 g | ClC1=CC(=CC2=C1N(CC1=C(C2=O)C=CC=C1)C)CC(=O)O | C17H14ClNO3
